US07652041B2
Preparation of (2E)-N-[4-chloro-3-(trifluoromethyl)phenyl]-3-[3-(9H-purin-6-yloxy)phenyl]acrylamide (B-3)
To a mixture of 1,4-diazabicyclo[2.2.2]octane (0.098 g, 0.87 mmol) in DCE (25 mL) was added (2E)-N-[4-chloro-3-(trifluoromethyl)phenyl]-3-(3-hydroxyphenyl)-acrylamide (300 mg, 0.87 mmol) and 6-chloro-9H-purine (1.95 mmol). TEA (366 μL, 2.61 mmol) was added, and the resulting solution was stirred at 60° C. The solution was diluted with brine and extracted with EtOAc. The combined organic solutions were dried over Na2SO4, filtered and concentrated. Purification by column chromatography (SiO2, 10-80% EtOAc in hexanes) provided the title compound as a white solid (45 mg). 1H NMR (400 MHz, d6-DMSO): 813.68 (br s, 1H), 10.67 (s, 1H), 8.55 (bs, 1H), 8.45 (s, 1H), 8.30 (s, 1H), 7.92 (dd, 1H), 7.70 (d, 1H), 7.65 (s, 1H), 7.60 (m, 2H), 7.38 (d, 1H) and 6.80 (d, 1H). LCMS, AA: Rt=1.71 min, [MH+ 460.0].

reactant | 1,4-diazabicyclo[2.2.2]octane | 0.87 mmol, 0.098 g | N12CCN(CC1)CC2 | C6H12N2
reactant | (2E)-N-[4-chloro-3-(trifluoromethyl)phenyl]-3-(3-hydroxyphenyl)-acrylamide | 0.87 mmol, 300 mg | ClC1=C(C=C(C=C1)NC(\C=C\C1=CC(=CC=C1)O)=O)C(F)(F)F | C16H11ClF3NO2
reactant | 6-chloro-9H-purine | 1.95 mmol | ClC1=C2N=CNC2=NC=N1 | C5H3ClN4
solvent | DCE | 25 mL | ClCCCl | C2H4Cl2
solvent | brine | [Cl-].[Na+].O
product | (2E)-N-[4-chloro-3-(trifluoromethyl)phenyl]-3-[3-(9H-purin-6-yloxy)phenyl]acrylamide | 45 mg | ClC1=C(C=C(C=C1)NC(\C=C\C1=CC(=CC=C1)OC1=C2N=CNC2=NC=N1)=O)C(F)(F)F | C21H13ClF3N5O2
